* C:\Users\pchau\OneDrive\Documents\LTspice\Draft4.asc
* Generated by LTspice 24.1.10 for Windows.
M1 N002 0 N007 N007 2N7002
R1 N001 N002 2.7k
R2 N001 N006 100000
R3 N006 0 33000
V1 N001 0 12
C1 N003 N002 10µ
C2 N005 N004 1µ
V2 N004 0 SINE(0 0.05 1k) AC 0.01
R4 N007 N005 390
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pchau\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 10 1 100k
.backanno
.end
